US08895733B2
2-N-(3-Chloro-2-fluorophenyl)-6-[5-(pyridin-2-yl)-1,2,4-oxadiazol-3-yl]-1,3,5-triazine-2,4-diamine (Method 14)
Triethylamine (1.10 mL, 7.58 mmol) and 1H-benzotriazol-1-ol (0.77 g, 5.05 mmol) were added to a solution of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.97 g, 5.05 mmol) in DMF (10 mL) and the mixture was stirred for 20 min at room temperature. Picolinic acid (0.62 g, 5.05 mmol) was added and the mixture was stirred for 30 min at room temperature. 4-Amino-6-[(3-chloro-2-fluorophenyl)amino]-N′-hydroxy-1,3,5-triazine-2-carboximidamide (prepared in an analogous manner to Intermediate 73, 1.50 g, 5.05 mmol) was added and the mixture was stirred at room temperature overnight before being heated to 85 C for approximately 24 h. The crude compound was purified over Ambersep resin but the impurities remained. The residue was then successively washed with EtOAc, acetone and MeOH and finally hot MeOH to afford the title compound (330 mg, 17%).

reactant | Triethylamine | 7.58 mmol, 1.10 mL | C(C)N(CC)CC | C6H15N
reactant | 1H-benzotriazol-1-ol | 5.05 mmol, 0.77 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 5.05 mmol, 0.97 g | Cl.CN(CCCN=C=NCC)C
reactant | Picolinic acid | 5.05 mmol, 0.62 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 4-Amino-6-[(3-chloro-2-fluorophenyl)amino]-N′-hydroxy-1,3,5-triazine-2-carboximidamide | NC1=NC(=NC(=N1)NC1=C(C(=CC=C1)Cl)F)C(N)=NO | C10H9ClFN7O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-N-(3-Chloro-2-fluorophenyl)-6-[5-(pyridin-2-yl)-1,2,4-oxadiazol-3-yl]-1,3,5-triazine-2,4-diamine | 330 mg, 17% | ClC=1C(=C(C=CC1)NC1=NC(=NC(=N1)N)C1=NOC(=N1)C1=NC=CC=C1)F | C16H10ClFN8O
